US04373106
In 50 ml of methanol was dissolved 2.5 g of 5-{1-[2-(2-methoxyphenoxy)ethyl]aziridin-2-yl}-2-methylbenzenesulfonamide and after adding 1 g of thiophenol to the solution and stirring overnight the mixture at room temperature, methanol was distilled off. The residue was applied to a silica gel column chromatography and the product was eluted with a mixed solvent of chloroform and methanol (9:1 by volume ratio) to provide 2.4 g of 5-{2-[2-(2-methoxyphenoxy)-ethylamino]-1-phenylthioethyl}-2-methylbenzenesulfonamide as a viscous oily material.

reactant | 5-{1-[2-(2-methoxyphenoxy)ethyl]aziridin-2-yl}-2-methylbenzenesulfonamide | 2.5 g | COC1=C(OCCN2C(C2)C=2C=CC(=C(C2)S(=O)(=O)N)C)C=CC=C1 | C18H22N2O4S
reactant | thiophenol | 1 g | C1(=CC=CC=C1)S | C6H6S
solvent | methanol | 50 ml | CO | CH4O
product | 5-{2-[2-(2-methoxyphenoxy)-ethylamino]-1-phenylthioethyl}-2-methylbenzenesulfonamide | 2.4 g | COC1=C(OCCNCC(SC2=CC=CC=C2)C=2C=CC(=C(C2)S(=O)(=O)N)C)C=CC=C1 | C24H28N2O4S2
